US08053431B2
1-(2-Methanesulfonyl-ethyl)-1H-benzoimidazole-5-carboxylic Acid Methyl Ester
4-(2-Methanesulfonyl-ethylamino)-3-nitro-benzoic acid methyl ester (1.63 g, 5.40 mmol) was dissolved in methanol, and 10% Pd/C (150 mg) was added to it under N2 atmosphere. The reaction mixture was then hydrogenated at 1 atmospheric pressure at room temp for 2 h. It was filtered through celite and the filtrate concentrated to yield the desired product. The crude material (1.32 g, 4.85 mmol) was taken in formic acid (10 mL) and allowed to stir at 50° C. for 4 h. The reaction mass was concentrated, diluted with water and extracted with EtOAc. The organic layers were washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated to give 1-(2-methanesulfonylethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester (77%). 1H NMR (300 MHz, DMSO-d6).

reactant | 4-(2-Methanesulfonyl-ethylamino)-3-nitro-benzoic acid methyl ester | 5.40 mmol, 1.63 g | COC(C1=CC(=C(C=C1)NCCS(=O)(=O)C)[N+](=O)[O-])=O | C11H14N2O6S
reactant | methanol | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 1-(2-Methanesulfonyl-ethyl)-1H-benzoimidazole-5-carboxylic Acid Methyl Ester | COC(=O)C1=CC2=C(N(C=N2)CCS(=O)(=O)C)C=C1 | C12H14N2O4S
